US04324730
2,2-Difluoroglutaric Anhydride
A solution of 5 g of 2,2-difluoroglutaric acid in 20 ml of acetic anhydride is refluxed for two hrs, 5 ml of the resulting solution is distilled off at ordinary pressure and the residual solution freed from acetic anhydride under reduced pressure. The resulting oil consists of 2,2-difluoroglutaric anhydride.

reactant | 2,2-difluoroglutaric acid | 5 g | FC(C(=O)O)(CCC(=O)O)F | C5H6F2O4
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-Difluoroglutaric Anhydride | FC1(C(=O)OC(CC1)=O)F | C5H4F2O3
